data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OC)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OC)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OC)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(F)C2Cl)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(C)C(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(C)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(C)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(C)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(C)O2", "products": "COC12OC(C)C(O1)C1C(=O)C12"}, {"reactants": "COC12OC(C)C(O1)C1C(=O)C12.[O-]C", "products": "COC12OC(C)C(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OC(C)C(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(OC)OC2C"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(C)c1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1F)C(C)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1F"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1F", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1F"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1F"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1F", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)cc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1F)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(F)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(F)c1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(F)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(F)c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(F)c1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(F)c1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c(F)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CC(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC(C)C)cc1=C", "products": "CC(C)C[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(Cl)c1", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(Cl)c1"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(Cl)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1Cl", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(Cl)c1"}]}
